US05866579
5,6,7,8-Tetrahydro-8-methyl-3-nitro-quinoline.
2-Methylcyclohexanone (170 mg, 1.52 mmol) was mixed with 1-methyl-3,5-dinitro-2-pyridone (296 mg, 1.49 mmol) in 1M methanolic ammonia (30 mL, 30 mmol) and heated at reflux for 3 h. The solvent was evaporated off and the residue was suspended in CHCl3 and flash chromatographed over silica gel (19 g) eluting with EtOAc/hexane (1:10) to afford a white solid (213 mg, 75% yield): mp 61°-63° C.

reactant | 2-Methylcyclohexanone | 1.52 mmol, 170 mg | CC1C(CCCC1)=O | C7H12O
reactant | 1-methyl-3,5-dinitro-2-pyridone | 1.49 mmol, 296 mg | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | ammonia | 30 mmol, 1M, 30 mL | N | H3N
product | 5,6,7,8-Tetrahydro-8-methyl-3-nitro-quinoline | 213 mg, 75% yield | CC1CCCC=2C=C(C=NC12)[N+](=O)[O-] | C10H12N2O2
